US04374843
A mixture of 12.0 g (53 mmol) of 2-azido-1-(2-guanidino-4-thiazolyl)ethanone, 1.0 g of 10% palladium on carbon, 100 ml of ethanol, 50 ml of water, and 20 ml of concentrated hydrochloric acid was hydrogenated at 3 atm. and room temperature for 1 hour. At this point another 50 ml of water and 300 mg of 10% palladium on carbon was added to the mixture and hydrogenation was continued at 3 atm for another 0.75 hour. The mixture was diluted with 200 ml of water, filtered to remove the catalyst, and the filtrate concentrated leaving 13.1 g (92%) of 2-amino-1-(2-guanidino-4-thiazolyl)ethanone dihydrochloride as a white powder mp>270°. nmr (DMSO-d6) (δ): 8.58 (b, 4H) 8.44 (s, 1H); 4.58 (b, 4H).

reactant | 2-azido-1-(2-guanidino-4-thiazolyl)ethanone | 53 mmol, 12.0 g | N(=[N+]=[N-])CC(=O)C=1N=C(SC1)NC(=N)N | C6H7N7OS
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 20 ml | Cl | ClH
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | water | 200 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-amino-1-(2-guanidino-4-thiazolyl)ethanone dihydrochloride | 13.1 g, 92% | Cl.Cl.NCC(=O)C=1N=C(SC1)NC(=N)N | InChI=1S/C6H9N5OS.2ClH/c7-1-4(12)3-2-13-6(10-3)11-5(8)9;;/h2H,1,7H2,(H4,8,9,10,11);2*1H
